US08609680B2
To a solution of (2-bromo-4-methoxy-phenyl)-acetic acid (1.07 g, 4.37 mmol) in 25 mL MeOH was added two drops of concentrated H2SO4 and the reaction was heated to reflux. After 18 hours, the solvent was removed in vacuo to give 920 mg of (2-bromo-4-methoxy-phenyl)-acetic acid methyl ester. This material was used directly in the next step without further purification.

reactant | (2-bromo-4-methoxy-phenyl)-acetic acid | 4.37 mmol, 1.07 g | BrC1=C(C=CC(=C1)OC)CC(=O)O | C9H9BrO3
reactant | MeOH | 25 mL | CO | CH4O
catalyst | H2SO4 | two drops | OS(=O)(=O)O | H2O4S
product | (2-bromo-4-methoxy-phenyl)-acetic acid methyl ester | 920 mg | COC(CC1=C(C=C(C=C1)OC)Br)=O | C10H11BrO3
